US04980342
The reaction was repeated using 3-acetyl-dihydro-2(3H)-furanone, sodium hydroxide and benzaldehyde to produce 3-phenyl methylene-dihydro-2(3H)-furanone. The crude yellow solid obtained from the reaction was recrystallized from chloroform to recover 3-phenylmethylene-dihydro-2(3H)-furanone, a yellow crystalline solid melting at 116° C. Proton and carbon nuclear magnetic resonance spectra for the product were as follows:

reactant | 3-acetyl-dihydro-2(3H)-furanone | C(C)(=O)C1C(OCC1)=O | C6H8O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 3-phenyl methylene-dihydro-2(3H)-furanone | C1(=CC=CC=C1)C1C(OCC1=C)=O | C11H10O2
